US08791142B2
Step 1) 5-chloro-6-[(2-hydroxyethyl)amino]nicotinonitrile
A mixture of 5,6-dichloro-nicotinonitrile (Bionet GC-0755, 500 mg, 2.89 mmol) and ethanolamine (0.87 mL, 14.45 mmol) was prepared in anhydrous dioxane (5 mL) and heated at 80° C. for 24 hours. The reaction mixture was diluted with MTBE (50 mL) and washed with water (2×25 mL) and brine (25 ml). The aqueous layers were extracted with MTBE (50 mL). The organic layers were combined, dried (Na2SO4) and concentrated under reduced pressure to give the title compound as a white powder (510 mg, 89%). HPLC (Method A), Rt: 1.9 min (purity: 99.9%). UPLC/MS, M−(ESI): 196.0.

reactant | 5,6-dichloro-nicotinonitrile | 2.89 mmol, 500 mg | ClC=1C(=NC=C(C#N)C1)Cl | C6H2Cl2N2
reactant | ethanolamine | 14.45 mmol, 0.87 mL | C(O)CN | C2H7NO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | MTBE | 50 mL | CC(C)(C)OC | C5H12O
product | 5-chloro-6-[(2-hydroxyethyl)amino]nicotinonitrile | 510 mg, 89% | ClC=1C(=NC=C(C#N)C1)NCCO | C8H8ClN3O
